US09315521B2
A mixture of 5-(bromomethyl)-2-chlorobenzoate (4.0 g, 15.6 mmol), diethylamine (5 mL, 48.1 mmol), and potassium carbonate (4.3 g, 31.2 mmol) in acetone (60 mL) was stirred at room temperature for 2 days. The solid material was removed by filtration. The filtrate was recovered, evaporated, and dried in vacuo, affording methyl 2-chloro-5-[(diethylamino)methyl]benzoate (3.97 g, 99% yield). The product was used without further purification.

reactant | 5-(bromomethyl)-2-chlorobenzoate | 15.6 mmol, 4.0 g | BrCC=1C=CC(=C(C(=O)[O-])C1)Cl
reactant | diethylamine | 48.1 mmol, 5 mL | C(C)NCC | C4H11N
reactant | potassium carbonate | 31.2 mmol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | methyl 2-chloro-5-[(diethylamino)methyl]benzoate | 3.97 g, 99% yield | ClC1=C(C(=O)OC)C=C(C=C1)CN(CC)CC | C13H18ClNO2
